US04638068
A solution containing 10 g methyl 5-nitropicolinate in 400 ml ethyl acetate is stirred under hydrogen in the presence of 1 g platinum oxide at room temperature and atmospheric pressure. When no further hydrogen uptake occurs, the catalyst is removed by filtration, the filtrate concentrated, and the product collected. This is recrystallized from ethyl acetate to give analytically pure methyl 5-aminopicolinate, mp 147°-150.5° C.

reactant | methyl 5-nitropicolinate | 10 g | [N+](=O)([O-])C=1C=CC(=NC1)C(=O)OC | C7H6N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 1 g | [Pt]=O
product | methyl 5-aminopicolinate | NC=1C=CC(=NC1)C(=O)OC | C7H8N2O2
